US04452851
A mixture of benzhydryl 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (18.97 g), thiourea (4.56 g) and sodium acetate (7.38 g) in tetrahydrofuran (150 ml) and water (80 ml) was stirred at 40° to 45° C. for 2 hours. Ethyl acetate (300 ml) was added to the reaction mixture at room temperature and the organic layer was separated. The organic layer was washed with brine and dried over magnesium sulfate. The solution was evaporated and the residue was triturated with ether to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (17.5 g).

reactant | benzhydryl 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylate | 18.97 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC)=O | C28H26ClN3O7S2
reactant | thiourea | 4.56 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 7.38 g | C(C)(=O)[O-].[Na+]
reactant | Ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 80 ml | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylate | 17.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC | C29H27N5O6S3
